US05965756
Ethylene/1-Octene Copolymerizations
A 2.0 liter Parr reactor is charged with approximately 740 g of Isopar-E™ mixed alkanes solvent (available from Exxon Chemicals Inc.) and 118 g of 1-octene comonomer. Hydrogen was added as a molecular weight control agent by differential pressure expansion from a 75 mL addition tank at 25 psid (2070 kPa). The reactor was heated to the polymerization temperature of 140° C. and saturated with ethylene at 500 psig. Then 0.5 μmol each of catalyst and B(C6F5)3 cocatalyst as 0.005 M solutions in toluene were premixed in a drybox, transferred to a catalyst addition tank, and injected into the reactor. The polymerization conditions were maintained for 15 minutes with ethylene on demand. The resulting solution was removed from the reactor, and a hindered phenol antioxidant (67 mg of Irganox™ 1010+133 mg of Irgafos™ 168 from Ciba Geigy Corporation) was added to the resulting solution. Polymers formed were dried in a vacuum oven set at 140° C. for about 20 hours. Results are contained in Table 3

reactant | 1-octene | 118 g | C=CCCCCCC | C8H16
reactant | Hydrogen | [H][H] | H2
reactant | ethylene | C=C | C2H4
reactant | B(C6F5)3 | B(C1=C(F)C(F)=C(F)C(F)=C1F)(C1=C(F)C(F)=C(F)C(F)=C1F)C1=C(F)C(F)=C(F)C(F)=C1F | C18BF15
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Ethylene/1-Octene | C=C.C=CCCCCCC | InChI=1S/C8H16.C2H4/c1-3-5-7-8-6-4-2;1-2/h3H,1,4-8H2,2H3;1-2H2
